US04307105
4-[[1-(2,4-Dichlorophenyl)-2-(1H-imidazol-1-yl)-ethoxy]methyl]-2-phenylthiazole, hydrochloride (1:1)
Following the procedure of Example 1b, 4-chloromethyl-2-phenylthiazole (prepared according to Example 1a from thiobenzamide and 1,3-dichloroacetone, m.p. 134°-136° C. (absolute alcohol/ethylacetate), is reacted with 1-(2,4-dichlorophenyl)-2-(1H-imidazol-1-yl)ethanol to obtain the title compound, m.p. 204°-205° C. (absolute alcohol/ethyl acetate).

reactant | 4-chloromethyl-2-phenylthiazole | ClCC=1N=C(SC1)C1=CC=CC=C1 | C10H8ClNS
reactant | thiobenzamide | C(C1=CC=CC=C1)(=S)N | C7H7NS
reactant | 1,3-dichloroacetone | ClCC(=O)CCl | C3H4Cl2O
reactant | 1-(2,4-dichlorophenyl)-2-(1H-imidazol-1-yl)ethanol | ClC1=C(C=CC(=C1)Cl)C(CN1C=NC=C1)O | C11H10Cl2N2O
product | 4-[[1-(2,4-Dichlorophenyl)-2-(1H-imidazol-1-yl)-ethoxy]methyl]-2-phenylthiazole, hydrochloride | Cl.ClC1=C(C=CC(=C1)Cl)C(CN1C=NC=C1)OCC=1N=C(SC1)C1=CC=CC=C1 | InChI=1S/C21H17Cl2N3OS.ClH/c22-16-6-7-18(19(23)10-16)20(11-26-9-8-24-14-26)27-12-17-13-28-21(25-17)15-4-2-1-3-5-15;/h1-10,13-14,20H,11-12H2;1H
